US03972936
10,11-Dihydro-5-(3-dimethylaminopropyl)-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-ol
A solution of 3-dimethylaminopropylmagnesium chloride in 3 ml. of dry peroxide-free tetrahydrofuran is prepared under nitrogen from 0.136 g. (0.0056 g. atom) of magnesium turnings and 0.68 g. (0.0056 mole) of 3-dimethylaminopropyl chloride. To the solution of the Grignard reagent cooled in ice is added dropwise a solution of 0.829 g. (0.00296 mole) of 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-one in 3 ml. of tetrahydrofuran. The mixture is stirred 1 hour in the cold and allowed to stand overnight in the refrigerator. After decanting the solution from any unused magnesium, the bulk of the tetrahydrofuran is evaporated under reduced pressure. The residue is dissolved in benzene, again evaporated under reduced pressure, and the residue redissolved in benzene. The solution is cooled in ice and hydrolyzed by the dropwise addition of 1 ml. of water. The benzene solution is decanted and the residual gelatinous precipitate is re-extracted with benzene. Evaporation of the combined benzene extracts and recrystallization of the residual solid from cyclohexane yields the product, m.p. 155°-157°C. A sample for analysis is recrystallized twice from hexane; m.p. 158°-159°C.

reactant | 3-dimethylaminopropylmagnesium chloride | CN(CCC[Mg]Cl)C
reactant | magnesium | 0.0056 g | [Mg] | Mg
reactant | 3-dimethylaminopropyl chloride | 0.0056 mole | CN(CCCCl)C | C5H12ClN
reactant | 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-one | 0.00296 mole | FC1(C(C2=C(C(C3=C1C=CC=C3)=O)C=CC=C2)(F)F)F | C15H8F4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 10,11-Dihydro-5-(3-dimethylaminopropyl)-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-ol | CN(CCCC1(C2=C(C(C(C3=C1C=CC=C3)(F)F)(F)F)C=CC=C2)O)C | C20H21F4NO
